US08729274B2
To a solution of cis-2-benzyl-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.882 mmol, 0.275 g) in toluene (2 ml) was added 1-chloroethyl chloroformate (6.17 mmol, 0.883 g) and the reaction mixture was heated at 160° C. for 15 min in a microwave reactor. MeOH (2 ml) was added and the mixture further irradiated at 160° C. for 5 mins. The mixture was concentrated in vacuo and then diluted with water and extracted with DCM (3×). The combined organics were dried over Na2SO4 and concentrated in vacuo to afford a residue that was purified by silica column chromatography (eluting with DCM—20% MeOH in DCM) to afford cis-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (163 mg), m/z=222.0 [M+H]+.

reactant | cis-2-benzyl-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.882 mmol, 0.275 g | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3Cl)C | C20H22ClN
reactant | 1-chloroethyl chloroformate | 6.17 mmol, 0.883 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | MeOH | 2 ml | CO | CH4O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | cis-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 163 mg | ClC1=CC=CC=2[C@H]3CNC[C@]3(CCC21)C | C13H16ClN
